US08227615B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-((2-methoxyphenyl)(methyl)amino)pyridin-2-yl)cyclopropanecarboxamide was synthesized using the procedure of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide by reacting 2-methoxy-N-methylaniline with 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxyphenylamino)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)NC2=C(C=CC=C2)OC | C23H21N3O4
reactant | 2-methoxy-N-methylaniline | COC1=C(NC)C=CC=C1 | C8H11NO
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)Br | C16H13BrN2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-((2-methoxyphenyl)(methyl)amino)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)N(C)C2=C(C=CC=C2)OC | C24H23N3O4
